US09278931B2
F) N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}-2-methylphenyl)benzamide hydrochloride
To a solution of N-[4-(trans-2-aminocyclopropyl)-2-methylphenyl]benzamide hydrochloride (90.1 mg) and sodium hydrogen carbonate (50.0 mg) in THF (1.49 mL)/methanol (1.49 mL) was added cyclopropanecarbaldehyde (0.029 mL). The reaction mixture was stirred at 0.60° C. for 1 hr, and ice-cooled to 0° C. and sodium borohydride (22.51 mg) was added. The mixture was stirred at room temperature overnight, and poured into saturated aqueous sodium hydrogen carbonate solution. The reaction mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) and the solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate (5 mL), and 4N hydrochloric acid/ethyl acetate solution (0.5 mL) was added. The solvent was evaporated under reduced pressure, and the residue was recrystallized from methanol/diisopropyl to give the title compound (55.9 mg).

reactant | N-[4-(trans-2-aminocyclopropyl)-2-methylphenyl]benzamide hydrochloride | 90.1 mg | Cl.N[C@H]1[C@@H](C1)C1=CC(=C(C=C1)NC(C1=CC=CC=C1)=O)C
reactant | sodium hydrogen carbonate | 50.0 mg | C(O)([O-])=O.[Na+]
reactant | cyclopropanecarbaldehyde | 0.029 mL | C1(CC1)C=O | C4H6O
reactant | sodium borohydride | 22.51 mg | [BH4-].[Na+]
solvent | THF | 1.49 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.49 mL | CO | CH4O
product | N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}-2-methylphenyl)benzamide hydrochloride | 55.9 mg | Cl.C1(CC1)CN[C@H]1[C@@H](C1)C1=CC(=C(C=C1)NC(C1=CC=CC=C1)=O)C | InChI=1S/C21H24N2O.ClH/c1-14-11-17(18-12-20(18)22-13-15-7-8-15)9-10-19(14)23-21(24)16-5-3-2-4-6-16;/h2-6,9-11,15,18,20,22H,7-8,12-13H2,1H3,(H,23,24);1H/t18-,20+;/m0./s1
